US05578624
4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxy-1-propoxy]-3-methoxyphenyl methanone
A stirred mixture of 4-(2,3-epoxypropoxy)-3-methoxyphenyl methanone (4.5 g, 22.5 mmol) and 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (5.36 g, 24.3 mmol) in isopropyl alcohol (150 ml) was heated at 55° C. for 16 hours. The mixture was cooled and the solvent was removed on a rotary evaporator. The residue was purified by flash chromatography over a silica gel column (SiO2, 80 g; eluted with dichloromethane, DCM, and 1% CH3OH in DCM). The oil thus obtained solidified quickly, weight: 9.47 g. Recrystallization from ethanol and isopropyl ether, then toluene provided 8.6 g (86%) of white crystals, m.p.=107°-108° C.

reactant | 4-(2,3-epoxypropoxy)-3-methoxyphenyl methanone | 22.5 mmol, 4.5 g | O1C(COC2=C(C=C(C=C2)C=O)OC)C1 | C11H12O4
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 24.3 mmol, 5.36 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
solvent | isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
product | 4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxy-1-propoxy]-3-methoxyphenyl methanone | 8.6 g, 86% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(COC2=C(C=C(C=C2)C=O)OC)O)C=C1 | C23H25FN2O5
